US08017792B2
Synthesis of 3-bromo-5-(4-ethoxybenzyl)pyridine
Then, trifluoroacetic acid (12.5 mL, 0.162 mol) was added dropwise to a chloroform solution of (5-bromopyridine-3-yl)(4-ethoxyphenyl)methanol (2.5 g, 8.11 mmol) and Et3SiH (5.1 mL, 40.6 mmol) at 4° C. and stirred at room temperature for 2.5 hours. The reaction mixture was added with water and extracted with chloroform. After washed with brine, the organic phase was dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=5:1) to obtain the title compound in a colorless needle form (1.83 g, 77%).

reactant | trifluoroacetic acid | 0.162 mol, 12.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | (5-bromopyridine-3-yl)(4-ethoxyphenyl)methanol | 8.11 mmol, 2.5 g | BrC=1C=C(C=NC1)C(O)C1=CC=C(C=C1)OCC | C14H14BrNO2
reactant | Et3SiH | 40.6 mmol, 5.1 mL | [SiH](CC)(CC)CC | C6H16Si
solvent | water | O | H2O
product | 3-bromo-5-(4-ethoxybenzyl)pyridine | BrC=1C=NC=C(C1)CC1=CC=C(C=C1)OCC | C14H14BrNO
